data/pmechdb/original/mc_train_fold0/raw/train.txt
CO[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.[N+:20](=O)=[O:21]>>CO[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[CH:20](=[SH+:21])[OH:10]>>[CH:20](=[OH+:10])[SH:21] 10=20;20,21=21
[CH2:10]=[C:11](CCC[CH2:20][Br:21])[O-:12]>>C1CC[C:11](=[O:12])[CH2:10][CH2:20]1.[Br-:21] 10,11=10,20;20,21=21;12=11
CO[PH+:22](OC)[O:21][CH3:20].[Cl-:10]>>CO[PH:22](=[O:21])OC.[CH3:20][Cl:10] 10=20;20,21=21,22
C1=CC=C(C=C1)[CH:10]=[O+:11][Sn-](Cl)(Cl)(Cl)Cl>>C1=CC=C(C=C1)[CH+:10][O:11][Sn-](Cl)(Cl)(Cl)Cl 10,11=11
[H:20][S+:21](CC)C(C=C)([O-])Cl.[OH2:10]>>[H:20][OH2+:10].CC[S:21]C(C=C)([O-])Cl 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([C+:22]1OCC)Br)Br)Br.[Br-:10]>>[H:20][Br:10].CCO[C:22]1=[C:21](C=C(C=C1Br)Br)Br 10=20;20,21=21,22
CC[O-:10].C[CH:20](C)[Cl:21]>>CC[O:10][CH:20](C)C.[Cl-:21] 10=20;20,21=21
[H:20][O+:21]=C(CC1=CC=CC=C1)C2C3=C(CCN2)C4=C(N3)C=CC=C4.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.C1CNC(C2=C1C3=C(N2)C=CC=C3)C(=[O:21])CC4=CC=CC=C4 10=20;20,21=21
C1CC[C:11]2([CH2:10]1)CCC[CH+:20]2>>C1CC[C+:11]2CCC[CH:20]2[CH2:10]1 10,11=10,20
[H:20][O+:21](CC(CO)(C1=CC=CC=C1)C2=CC=CC=C2)C3(CC(=O)C=C3)O[B-](F)(F)F.C1=CC=C(C=C1)C(CO)(C[OH:10])C2=CC=CC=C2.CCOCC>>[H:20][OH+:10]CC(CO)(C1=CC=CC=C1)C2=CC=CC=C2.[B-](OC1(CC(=O)C=C1)[O:21]CC(CO)(C2=CC=CC=C2)C3=CC=CC=C3)(F)(F)F.CCOCC 10=20;20,21=21
[H:20][O:21]C(=O)CNC(=O)OC(C)(C)C.CC(C)NC(=[N:10]C(C)C)OC(=O)CNC(=O)OC(C)(C)C.CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CN(C)C1=CC=NC=C1>>[H:20][N+:10](=C(NC(C)C)OC(=O)CNC(=O)OC(C)(C)C)C(C)C.CC(C)(C)OC(=O)NCC(=O)[O-:21].CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CN(C)C1=CC=NC=C1 10=20;20,21=21
C[C:10]1(CCC(=O)C1)[OH2+:11]>>C[C+:10]1CCC(=O)C1.[OH2:11] 10,11=11
[H:20][C:21](C#N)([C:22](=[NH:23])C#N)N.[OH-:10]>>[H:20][OH:10].C(#N)[C:21](=[C:22](C#N)[NH-:23])N 10=20;22,23=23;20,21=21,22
CCC(C)O[C:20](C)([O-:10])[O:21]C(=O)C>>CCC(C)O[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
CC(C)O[Si-:10](C)(C)(C(C)(C)C)[O+:11]=CN(C)C.C1=C[NH+]=CN1.[Cl-]>>CC(C)O[Si:10](C)(C)C(C)(C)C.CN(C)C=[O:11].C1=C[NH+]=CN1.[Cl-] 10,11=11
CC1=CC=CC(CC2[C:10]([O+:11]2[Sn-](Cl)(Cl)(Cl)Cl)(CCC1)C)(C)C.Cl>>CC1=CC=CC(CC([C+:10](CCC1)C)[O:11][Sn-](Cl)(Cl)(Cl)Cl)(C)C.Cl 10,11=11
CC1CC[CH2:10][C:11](C1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CC1CC[CH2:10][CH2:20][C:11](=[OH+:12])C1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH+:22]C(=CO1)C#N)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](OC=C1C#N)[N+](=O)[O-] 10=20;20,21=21,22
[Li-]([O:12][C:11](=[CH2:10])C(C)CC(C)CN=[N+]=[N-])[O+:21]=[CH:20]C(C(CC(C)CC(=C)COCC1=CC=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C.CC(C)NC(C)C>>[Li-]1[O:21][CH:20]([CH2:10][C:11](=[O+:12]1)C(C)CC(C)CN=[N+]=[N-])C(C(CC(C)CC(=C)COCC2=CC=CC=C2)O[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C.CC(C)NC(C)C 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)C[NH2+:21][C:20](C2=C(C=CC=C2)C(=O)O)(O)[OH:10].O>>C1=CC=C(C=C1)C[NH2:21].C1=CC(=C(C=C1)C(=O)O)[C:20](=[OH+:10])O.O 10=20;20,21=21
[H:20][OH2+:21].C(C=C=[N-:10])C#N>>[H:20][N:10]=C=CCC#N.[OH2:21] 10=20;20,21=21
CC(C)(C)OC(=O)C=N[N-:10]C1=C(C(=O)N(C(=O)N1C)C)N=[C:20]=[O:21]>>CC(C)(C)OC(=O)C=N[N:10]1C2=C(C(=O)N(C(=O)N2C)C)N=[C:20]1[O-:21] 10=20;20,21=21
C[CH:20]([O-:10])[Br:21]>>C[CH:20]=[O:10].[Br-:21] 10=20;20,21=21
[H:20][N+:21](CCCCO)(CC1=CC=CC=C1)C(CC2CC=CC3N2C(=O)OC3C(CCCCC)OCC4=CC=CC=C4)([O-])Cl.[OH:10][Na].O>>[H:20][OH+:10][Na].CCCCCC(C1C2C=CCC(N2C(=O)O1)CC([N:21](CCCCO)CC3=CC=CC=C3)([O-])Cl)OCC4=CC=CC=C4.O 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([C+:22]1O)Br)Br)Br.[Br-:10]>>[H:20][Br:10].C1=C(C=C([C:22](=[C:21]1Br)O)Br)Br 10=20;20,21=21,22
CC1=CCC([O+:21]=[CH:20]1)C(C)OCOC.CC(C)C1CC([C:11](=[CH2:10])C1(C)CO[Si](C)(C)C(C)(C)C)[Si](C)(C)C.[B-](OCC)(F)(F)F.CCOCC>>CC1=CCC([O:21][CH:20]1[CH2:10][C+:11]2C(CC(C2(C)CO[Si](C)(C)C(C)(C)C)C(C)C)[Si](C)(C)C)C(C)OCOC.[B-](OCC)(F)(F)F.CCOCC 10,11=10,20;20,21=21
C1COC(O1)CC[O-:10].[AlH3:20]>>C1COC(O1)CC[O:10][AlH3-:20] 10=20,
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C(F)(F)F)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC(=C2)C(F)(F)F)[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][NH2:21].CC1=CC=C[C-:10]=C1N>>[H:20][C:10]1=C(C(=CC=C1)C)N.[NH2-:21] 10=20;20,21=21
[H:20][N+:21](=[C:22](C)[Cl:23])CCC1=CC(=CC=C1)OC.[O-:10]P(=O)(Cl)Cl>>[H:20][O:10]P(=O)(Cl)Cl.C[C:22]#[N+:21]CCC1=CC(=CC=C1)OC.[Cl-:23] 10=20;22,23=23;20,21=21,22
CC[C:20]1(C[OH+:21]1)C.[Br-:10]>>CC[C:20](C)(C[OH:21])[Br:10] 10=20;20,21=21
[Li-]([NH+]([Si](C)(C)C)[Si](C)(C)C)[O+](C1=CCC2C(CC3C(O2)(CC(C(O3)CCCC)CCC)C)OC1CO[Si](C)(C)C(C)(C)C)[Si-:10](C)(C)(C)[Cl:11]>>[Li-]([NH+]([Si](C)(C)C)[Si](C)(C)C)[O+](C1=CCC2C(CC3C(O2)(CC(C(O3)CCCC)CCC)C)OC1CO[Si](C)(C)C(C)(C)C)[Si:10](C)(C)C.[Cl-:11] 10,11=11
[H:20][N+:21]1=CC=CC=C1.CC[C:11](=[C:10](CC1CCCCC1)NC(=O)CC)[O-:12].CCC(=O)OC(=O)CC.C(=O)=O>>[H:20][C:10](CC1CCCCC1)([C:11](=[O:12])CC)NC(=O)CC.CCC(=O)OC(=O)CC.C1=CC=[N:21]C=C1.C(=O)=O 10,11=10,20;12=11;20,21=21
